US05811459
A mixture of methyl 4-[3-(2-benzyloxy-5-bromophenyl)propyl]-benzoate (0.5 g) and CuCN (250 mg) in DMF (20 ml) was heated at reflux for 18 hours, poured into ethylene diamine (20 ml) and water (60 ml) and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine (100 ml), dried (magnesium sulphate), filtered and evaporated to give methyl 4-[3-(2-benzyloxy-5-cyanophenyl)propyl]-benzoate (290 mg).

reactant | methyl 4-[3-(2-benzyloxy-5-bromophenyl)propyl]-benzoate | 0.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CCCC1=CC=C(C(=O)OC)C=C1 | C24H23BrO3
reactant | CuCN | 250 mg | C(#N)[Cu]
reactant | ethylene diamine | 20 ml | C(CN)N | C2H8N2
reactant | water | 60 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl 4-[3-(2-benzyloxy-5-cyanophenyl)propyl]-benzoate | 290 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)CCCC1=CC=C(C(=O)OC)C=C1 | C25H23NO3
